US09029374B2
TSTU (84 mg, 0.28 mmol) at 25° C., was added to 8-(1-(3,5-difluorophenylamino)ethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxylic acid (100 mg, 0.14 mmol) and DIPEA (0.049 mL, 0.28 mmol) dissolved in DCM (1 mL). The resulting solution was stirred at 25° C. for 2 hrs. Morpholine (0.037 mL, 0.42 mmol) was then added, the resulting solution was stirred at 25° C. for 30 minutes then concentrated. The crude was diluted with 1 mL of DMA and purified by preparative HPLC using a Waters X-Bridge reverse-phase column (C-18, 5 microns silica, 19 mm diameter, 100 mm length, flow rate of 40 mL/minute) and decreasingly polar mixtures of water (containing 0.2% ammonium carbonate) and acetonitrile as eluent. The fractions containing the desired compound were evaporated to dryness, triturated in diethyl ether and collected by filtration to afford 8-(1-(3,5-difluorophenylamino)ethyl)-6-(morpholine-4-carbonyl)-2-morpholino-4H-chromen-4-one (63.0 mg, 90%) as a yellow solid. Mass Spectrum: M+H+ 500. NMR Spectrum: (DMSOd6) 1.53 (d, 3H), 3.11 (bs, 2H), 3.37-3.71 (m, 10H), 3.71-3.80 (m, 4H), 4.98-5.07 (m, 1H), 5.62 (s, 1H), 6.15 (dd, 2H), 6.25 (ddd, 1H), 6.97 (d, 1H), 7.51 (d, 1H), 7.82 (d, 1H).

reactant | TSTU | 0.28 mmol, 84 mg | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C(=O)CCC1=O
reactant | 8-(1-(3,5-difluorophenylamino)ethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxylic acid | 0.14 mmol, 100 mg | FC=1C=C(C=C(C1)F)NC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)O | C22H20F2N2O5
reactant | DIPEA | 0.28 mmol, 0.049 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Morpholine | 0.42 mmol, 0.037 mL | N1CCOCC1 | C4H9NO
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 8-(1-(3,5-difluorophenylamino)ethyl)-6-(morpholine-4-carbonyl)-2-morpholino-4H-chromen-4-one | 63.0 mg, 90% | FC=1C=C(C=C(C1)F)NC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N1CCOCC1 | C26H27F2N3O5
